US06562808B1
(R)-5,11-Dihydro-5-[1-[2-(4-dimethylaminophenyl)ethyl]-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride
0.6 ml of 4 M hydrochloride/dioxane was added to a solution of 238 mg of (R)-5,11-dihydro-5-[1-[2-(4-dimethylaminophenyl)ethyl]-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine in dichloromethane (10 ml), and the solution was stirred for 5 minutes. The solvent was evaporated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethanol, dimethoxyethane and ether to obtain the title compound in the form of a white solid (204 mg, 73%).

reactant | hydrochloride dioxane | 4 M, 0.6 ml | Cl.O1CCOCC1
reactant | (R)-5,11-dihydro-5-[1-[2-(4-dimethylaminophenyl)ethyl]-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine | 238 mg | CN(C1=CC=C(C=C1)CCN1[C@H](CCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2)C | C28H33N3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-[2-(4-dimethylaminophenyl)ethyl]-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride | Cl.Cl.CN(C1=CC=C(C=C1)CCN1[C@H](CCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2)C | InChI=1S/C28H33N3O.2ClH/c1-29(2)24-15-13-22(14-16-24)17-19-30-18-7-9-25(30)20-31-26-10-4-3-8-23(26)21-32-28-12-6-5-11-27(28)31;;/h3-6,8,10-16,25H,7,9,17-21H2,1-2H3;2*1H/t25-;;/m1../s1
